US04752615
Isopropyl N-(3-nitro-4,5-diethoxyphenyl)carbamate (3.12 g) and iodomethane (4.30 g) were dissolved in tetrahydrofuran (10 ml). The resultant solution was dropwise added to a tetrahydrofuran solution containing potassium hydroxide (1.68 g) and tetra-n-butylammonium bromide (1.0 g). After being allowed to stand at room temperature for 12 hours, the reaction mixture was poured into ice-water and extracted with toluene. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The reside was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give isopropyl N-methyl-N-(3-nitro-4,5-diethoxyphenyl)carbamate (Compound No. 161) (2.92 g) in a yield of 89.5%. nD20.0 1.5075.

reactant | Isopropyl N-(3-nitro-4,5-diethoxyphenyl)carbamate | 3.12 g | [N+](=O)([O-])C=1C=C(C=C(C1OCC)OCC)NC(OC(C)C)=O | C14H20N2O6
reactant | iodomethane | 4.30 g | IC | CH3I
reactant | potassium hydroxide | 1.68 g | [OH-].[K+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | tetra-n-butylammonium bromide | 1.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | isopropyl N-methyl-N-(3-nitro-4,5-diethoxyphenyl)carbamate | yield of 89.5% | CN(C(OC(C)C)=O)C1=CC(=C(C(=C1)OCC)OCC)[N+](=O)[O-] | C15H22N2O6
